US07227032B2
To a flask having an inner volume of 25 ml and equipped with a stirring device, a thermometer and a reflux condenser were charged, 2.97 g (20 mmol) of 3,3-dimethoxy-2-hydroxyiminopropionitrile with a purity of 96.9% by weight synthesized in the same manner as in Example 1, 2.32 g (21 mmol) of phenylhydrazine with a purity of 98% by weight, 10 ml of methanol and 3.0 ml (36 mmol) of conc. hydrochloric acid, and the mixture was reacted at 50 to 52° C. for one hour. After completion of the reaction, 10 ml of water was added to the mixture to cool the same up to 10° C., then, 2.3 ml (37.9 mmol) of 28% by weight aqueous ammonia was gradually added dropwise to the mixture, and the resulting mixture was stirred for 30 minutes while maintaining the liquid temperature to 5° C. or lower for 30 minutes. Precipitated crystals were collected by filtration, and the crystals were washed with 5 ml of cold water and dried under reduced pressure to obtain 3.19 g of 5-amino-4-nitroso-1-phenylpyrazole (Isolation yield: 63.4%) as an ocherous solid with a purity of 74.9% by weight (absolute calibration curve method by high performance liquid chromatography).

reactant | 3,3-dimethoxy-2-hydroxyiminopropionitrile | 20 mmol, 2.97 g | COC(C(C#N)=NO)OC | C5H8N2O3
reactant | phenylhydrazine | 21 mmol, 2.32 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | 36 mmol, 3.0 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 5-amino-4-nitroso-1-phenylpyrazole | 3.19 g, yield: 63.4% | NC1=C(C=NN1C1=CC=CC=C1)N=O | C9H8N4O
